US06960601B2
A solution of 2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylic acid (50 mg, 0.15 mmol) and N-bromosuccinimide (88 mg, 0.49 mmol) in dimethylformamide (5 mL) was stirred at 75° C. for 3 days. The solution was purified by preparative HPLC to give 5-bromo-2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylic acid as a white solid (30.7 mg, 50%). LC-MS m/z 411.2 (MH+), retention time 2.70 min (method 2).

reactant | 2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylic acid | 0.15 mmol, 50 mg | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)O)C1=CC=C(C=C1)Cl | C16H10Cl2N2O2
reactant | N-bromosuccinimide | 0.49 mmol, 88 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-bromo-2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylic acid | 30.7 mg, 50% | BrC1=C(N=C(N1C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)C(=O)O | C16H9BrCl2N2O2
